US06245761B1
Preparation of 4-(t-butoxycarbonylamino)-2,2-dimethylbutanol
A solution of 3,3-dimethyl-1-(t-butoxycarbonyl)pyrrolidin-2-one (3.35 g, 15.7 mmol) in absolute ethanol under a nitrogen atmosphere was treated with sodium borohydride (1.79 g, 47.1 mmol). The resulting mixture was stirred at ambient tempeature for about 24 hours. The progress of the reaction was monitored by thin layer chromatography. The reaction mixture was concentrated in vacuo. The residue was dissolved in ethyl acetate and washed with sodium bicarbonate. The aqueous fraction was back extracted twice with ethyl acetate. The organic phase was dried over sodium sulfate and concentrated in vacuo. The residue was further purified by chromatography to yield 3.17 grams (93%) of the title intermediate as a clear oil. mp 75.5-76.5° C.

reactant | 3,3-dimethyl-1-(t-butoxycarbonyl)pyrrolidin-2-one | 15.7 mmol, 3.35 g | CC1(C(N(CC1)C(=O)OC(C)(C)C)=O)C | C11H19NO3
reactant | sodium borohydride | 47.1 mmol, 1.79 g | [BH4-].[Na+]
solvent | ethanol | C(C)O | C2H6O
product | 4-(t-butoxycarbonylamino)-2,2-dimethylbutanol | 3.17 grams, 93% | C(C)(C)(C)OC(=O)NCCC(CO)(C)C | C11H23NO3
